US06235731B1
1) Synthesis of N-(1-phenethylpiperidin-4-yl)-3-(5-thia-1,8b-diazaacenaphthylen-4-yl)acrylamide
In 10 ml of ethanol was suspended 0.998 g (2.5 mM) of N-(piperidin-4-yl)-3-(5-thia-1,8b-diazaacenaphthylen-4-yl)acrylamide dihydrochloride as well as 0.703 g (3.8 mM) of phenethyl bromide, followed by addition of 1.74 ml (12.5 mM) of triethylamine, and the mixture was refluxed for 5 hours. To this reaction mixture was further added 0.070 g (0.38 mM) of phenethyl bromide, and the mixture was refluxed overnight. This reaction mixture was diluted with 5% aqueous solution of sodium hydrogen carbonate and extracted with dichloromethane. The organic layer was washed with saturated aqueous solution of sodium chloride and dried over Na2SO4 and the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate-methanol=4/1) and concentrated and the residue was crystallized from ether to provide the title compound.

reactant | N-(piperidin-4-yl)-3-(5-thia-1,8b-diazaacenaphthylen-4-yl)acrylamide dihydrochloride | 2.5 mM, 0.998 g | Cl.Cl.N1CCC(CC1)NC(C=CC1=CC2=CN=C3C=CC=C(S1)N32)=O
reactant | phenethyl bromide | 3.8 mM, 0.703 g | C(CC1=CC=CC=C1)Br | C8H9Br
reactant | triethylamine | 12.5 mM, 1.74 ml | C(C)N(CC)CC | C6H15N
reactant | phenethyl bromide | 0.38 mM, 0.070 g | C(CC1=CC=CC=C1)Br | C8H9Br
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
product | N-(1-phenethylpiperidin-4-yl)-3-(5-thia-1,8b-diazaacenaphthylen-4-yl)acrylamide | C(CC1=CC=CC=C1)N1CCC(CC1)NC(C=CC1=CC2=CN=C3C=CC=C(S1)N32)=O | C25H26N4OS
